US08293737B2
c) Ethyl 6-(2,3-dihydro-1H-inden-2-yl)amino-1,4-dihydro-4-oxo-1,5-naphthyridine-3-carboxylate
A solution of diethyl 2-((6-(2,3-dihydro-1H-inden-2-ylamino)pyridin-3-ylamino)methylene)malonate (1.3 g) in dichloromethane (10 ml) was added very carefully into pre-heated (230° C.) diphenyl ether (20 ml) with stiffing and heating was continued with stiffing for another 20 min after addition had been completed. This was then allowed to cool to room temperature, petroleum ether (200 ml) was added, and the solid which separated was filtered off dried to give the crude product (600 mg), which was on-reacted without further characterization other than ascertaining that the compound was one spot by tlc with the expected molecular weight (M+1) of 350.

reactant | diethyl 2-((6-(2,3-dihydro-1H-inden-2-ylamino)pyridin-3-ylamino)methylene)malonate | 1.3 g | C1C(CC2=CC=CC=C12)NC1=CC=C(C=N1)NC=C(C(=O)OCC)C(=O)OCC | C22H25N3O4
reactant | diphenyl ether | 20 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Ethyl 6-(2,3-dihydro-1H-inden-2-yl)amino-1,4-dihydro-4-oxo-1,5-naphthyridine-3-carboxylate | 600 mg | C1C(CC2=CC=CC=C12)NC=1N=C2C(C(=CNC2=CC1)C(=O)OCC)=O | C20H19N3O3
